US07812017B2
4-Bromo-6-fluoro-1H-indole
1-Bromo-5-fluoro-2-methyl-3-nitrobenzene (2.00 g, 8.55 mmol) and (dimethoxymethyl)dimethylamine (5.66 mL, 42.7 mmol) in dry DMF (20 mL) was refluxed under N2 for 8 h, then rt. over night. The mixture was diluted with DCM and extracted 5 times with water. The organic layer was dried, filtered and concentrated under reduced pressure. The residue was dissolved in AcOH (10 mL) and added drop wise to a boiling mixture of Fe(s, fine powder) in AcOH (10 mL). The mixture was refluxed for 40 min., partitioned between DCM and saturated aq. Na2CO3/brine (the mixture was filtered through celite before phase separation). The water layer was extracted once more with DCM. The organic layers were combined, dried and concentrated. Purification was performed by flash column chromatography (DCM/hexane 1:3) and afforded the title compound (660 mg, 39%) as a yellow oil. MS (ESI+) for C8H5BrFN m/z 214 (M+H)+.

reactant | 1-Bromo-5-fluoro-2-methyl-3-nitrobenzene | 8.55 mmol, 2.00 g | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
reactant | (dimethoxymethyl)dimethylamine | 42.7 mmol, 5.66 mL | COC(OC)N(C)C | C5H13NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Bromo-6-fluoro-1H-indole | 660 mg, 39% | BrC1=C2C=CNC2=CC(=C1)F | C8H5BrFN
